US09120796B2
Step 1. Preparation of 2-Picoline/Sulfur Trioxide Complex (Reagent Formation)
To a 50 ml 3-neck RBF equipped with a magnetic stir bar, thermocouple probe, addition funnel, nitrogen inlet adapter, and a rubber septum, was charged anhydrous dichloromethane (Volume: 7.5 ml) and 2-picoline (4.38 ml, 44.2 mmol). The mixture was chilled in an ice/NaCl bath to −6.2° C. A solution of chlorosulfonic acid (1.434 ml, 21.41 mmol) in anhydrous dichloromethane (Volume: 7.5 ml) was added over 30 minutes, with the temperature being maintained below 5° C., to give an orange solution. The solution was stirred for 30 minutes, split solution into 2 equal parts (9.5 ml each). One part was added to the sulfation reaction at room temperature as described in this Example, step 2.

reactant | 2-picoline | 44.2 mmol, 4.38 ml | N1=C(C=CC=C1)C | C6H7N
reactant | chlorosulfonic acid | 21.41 mmol, 1.434 ml | ClS(=O)(=O)O | ClHO3S
solvent | dichloromethane | 7.5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 7.5 ml | ClCCl | CH2Cl2
product | 2-Picoline Sulfur Trioxide | N1=C(C=CC=C1)C.S(=O)(=O)=O | InChI=1S/C6H7N.O3S/c1-6-4-2-3-5-7-6;1-4(2)3/h2-5H,1H3;
